US05608056
To a solution of (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methoxy-3-oxo-1-propenyl)pyrrolidine (18.7 g) in tetrahydrofuran (190 ml) were added successively sodium borohydride (3.83 g) and lithium iodide (13.5 g) at room temperature and the mixture was refluxed for 4 hours. After cooling to room temperature, the mixture was diluted with water (200 ml) and extracted with ethyl acetate (200 ml×3). The combined extracts were washed with brine (400 ml), dried over magnesium sulfate and concentrated to give (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-hydroxypropyl)pyrrolidine (17.2 g) as a pale yellow paste.

reactant | (2S,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-methoxy-3-oxo-1-propenyl)pyrrolidine | 18.7 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=CC(=O)OC | C18H31NO5Si
reactant | sodium borohydride | 3.83 g | [BH4-].[Na+]
reactant | lithium iodide | 13.5 g | [I-].[Li+]
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(3-hydroxypropyl)pyrrolidine | 17.2 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCCO | C17H33NO4Si
